US07714099B2
Synthesis of 4,7-Dibromo-2-phenyl-2H-benzotriazole
2-phenyl-2H-benzotriazole (1.10 g, 5.1 mmol) was placed in a 1-neck 250-mL round bottomed flask. HBr/acetic acid (45% w/v, 20 mL) and bromine (0.79 mL, 15.3 mmol) were added. The flask was connected to a condenser and a scrubber. The mixture was heated in an oil bath at 150° C. for 0.5 hr. The solution was cooled to room temperature. Bromine (0.79 mL, 15.3 mmol) was again added to the reaction mixture and it was again heated to 150° C. for 1 hr. This step was repeated three more times. Water (200 mL) and dichloromethane (200 mL) were added to the reaction mixture followed by aqueous sodium hydroxide (1.5 M) solution to neutralize the acid. The organic layer was separated and dried with MgSO4. The solution was filtered and the solvent concentrated using a rotary evaporator. The solid was further dried under high vacuum at 60° C. for 2 hr. Yield: 78%.

reactant | 2-phenyl-2H-benzotriazole | 5.1 mmol, 1.10 g | C1(=CC=CC=C1)N1N=C2C(=N1)C=CC=C2 | C12H9N3
reactant | HBr acetic acid | 20 mL | Br.C(C)(=O)O
reactant | bromine | 15.3 mmol, 0.79 mL | BrBr | Br2
reactant | Bromine | 15.3 mmol, 0.79 mL | BrBr | Br2
reactant | sodium hydroxide | 1.5 M | [OH-].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | Water | 200 mL | O | H2O
product | 4,7-Dibromo-2-phenyl-2H-benzotriazole | Yield: 78% | BrC1=CC=C(C2=NN(N=C21)C2=CC=CC=C2)Br | C12H7Br2N3
